US08486979B2
3-(5-(5-bromopyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile
The title compound was prepared according to the procedure of Example 4B using 3-cyano-N′-hydroxybenzimidamide and 5-bromonicotinoyl chloride (Alfa). 1H NMR (300 MHz, DMSO-d6) δ 7.67 (m, 1 H), 7.74 (m, 1 H), 8.41 (m, 1 H), 8.49 (m, 1 H), 8.64 (s, 1 H), 8.93 (s, 1 H), 9.4 (s, 1 H) ppm; MS (DCI/NH3) m/z 327 (M+H)+.

reactant | 3-cyano-N′-hydroxybenzimidamide | C(#N)C=1C=C(C(N)=NO)C=CC1 | C8H7N3O
reactant | 5-bromonicotinoyl chloride | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | NH3 | N | H3N
product | 3-(5-(5-bromopyridin-3-yl)-1,2,4-oxadiazol-3-yl)benzonitrile | BrC=1C=C(C=NC1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C14H7BrN4O
